US08283478B2
N-[(5-bromobenzo[b]thien-3-yl)methyl]-sulfamide (Compound #15)
5-Bromobenzothiophene (1.60 g, 7.51 mmol) and dichloromethyl methyl ether (1.29 g, 11.3 mmol) were dissolved in anhydrous 1,2-dichloroethane (75 mL). Titanium tetrachloride (2.14 g, 11.3 mmol) was added, turning the solution dark. After one hour at room temperature, the reaction was poured into a mixture of saturated aqueous NaHCO3 and ice. The mixture was stirred for about 30 minutes and then was extracted with DCM (2×100 mL). The extracts were concentrated and chromatographed (0 to 5% ethyl acetate in hexane) to yield 5-bromo-benzo[b]thiophene-3-carbaldehyde (1.32 g). The 5-bromobenzothiophene-3-carboxaldehyde (1.20 g, 4.98 mmol) and sulfamide (4.0 g, 42 mmol) were combined in anhydrous ethanol (25 mL) and heated to reflux for three days. The reaction was cooled to room temperature and sodium borohydride (0.207 g, 5.47 mmol) was added. After five hours, water (50 ml) was added and the solution was extracted with chloroform (3×50 mL). The extracts were concentrated, suspended in a minimal amount of DCM, and filtered to provide the title compound as a yellow solid.

reactant | 5-bromobenzothiophene-3-carboxaldehyde | 4.98 mmol, 1.20 g | BrC=1C=CC2=C(C(=CS2)C=O)C1 | C9H5BrOS
reactant | sulfamide | 42 mmol, 4.0 g | S(=O)(=O)(N)N | H4N2O2S
reactant | sodium borohydride | 5.47 mmol, 0.207 g | [BH4-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N-[(5-bromobenzo[b]thien-3-yl)methyl]-sulfamide | BrC1=CC2=C(SC=C2CNS(=O)(=O)N)C=C1 | C9H9BrN2O2S2
